US08748431B2
To a solution of 3-hydroxy-4-methoxy-pyridine-2-carboxylic acid acid (70 mg, 0.34 mmol) in 4 ml of acetonitrile triethylamine (0.13 mL, 0.96 mmol), 1-ethyl-3-dimethylaminopropyl)carbodiimide (77 mg, 0.41 mmol) and 1-hydroxy-7-azabenzotriazole (53 mg, 0.38 mmol) were added at RT. After stirring 15 min at RT, 1-[4-(4-amino-thiazol-2-yl)-piperidin-1-yl]-2-(5-methyl-3-trifluoromethyl-pyrazol-1-yl)-ethanone (120 mg, 0.32 mmol) was added to the reaction mixture. After stirring 16 h at RT, the reaction mixture was diluted with 20 ml of ethyl acetate. The organic layer was washed with saturated aqueous sodium bicarbonate solution, 1 M hydrochloric acid and brine, dried over sodium sulfate and evaporated under reduced pressure. The remainder was purified by column chromatography on silica gel (ethylacetate/cyclohexane 1:1 to 8:2) to give 3-hydroxy-4-methoxy-pyridine-2-carboxylic acid (2-{1-[2-(5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetyl]-piperidin-4-yl}-thiazol-4-yl)-amide (Compound No. 1.g.025) as a beige solid. 1H-NMR (400 MHz, CDCl3): δ=1.64-1.77 (m, 2H), 2.05-2.16 (m, 2H), 2.27 (s, 3H), 2.81-2.89 (m, 1H), 3.12-3.28 (m, 2H), 3.92 (s, 3H), 3.94-3.99 (m, 1H), 4.44-4.51 (m, 1H), 4.93 (d, 2H), 6.27 (s, 1H), 6.89 (d, 1H), 7.59 (s, 1H), 8.00 (d, 1H). MS: m/z=525 (M+1).

reactant | 3-hydroxy-4-methoxy-pyridine-2-carboxylic acid | 0.34 mmol, 70 mg | OC=1C(=NC=CC1OC)C(=O)O | C7H7NO4
reactant | acetonitrile triethylamine | 0.96 mmol, 4 ml | C(C)N(CC)CC.C(C)#N
reactant | carbodiimide | 0.41 mmol, 77 mg | N=C=N | CH2N2
reactant | 1-hydroxy-7-azabenzotriazole | 0.38 mmol, 53 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 1-[4-(4-amino-thiazol-2-yl)-piperidin-1-yl]-2-(5-methyl-3-trifluoromethyl-pyrazol-1-yl)-ethanone | 0.32 mmol, 120 mg | NC=1N=C(SC1)C1CCN(CC1)C(CN1N=C(C=C1C)C(F)(F)F)=O | C15H18F3N5OS
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 3-hydroxy-4-methoxy-pyridine-2-carboxylic acid (2-{1-[2-(5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetyl]-piperidin-4-yl}-thiazol-4-yl)-amide | CC1=CC(=NN1CC(=O)N1CCC(CC1)C=1SC=C(N1)NC(=O)C1=NC=CC(=C1O)OC)C(F)(F)F | C22H23F3N6O4S
